US08124188B2
Part A: Synthesis of 1-((diethylcarbamothioylthio)methyl)benzoic Acid
4-Chloromethylbenzoic acid (4 g, 0.0234 mol, 1.0 equiv.) was dissolved in warm ethanol (20 mL). Diethyldithiocarbamic acid, sodium salt trihydrate (7.92 g, 0.0328 mol, 1.5 equiv.) was also separately dissolved in warm ethanol (20 mL). The solution of the carbamic acid was then added to the solution of the carboxylic acid. The resulting mixture was then stirred at 40-50° C. for 2 h, then stirred overnight at r.t. The reaction mixture was then evaporated to dryness and separated between dichloromethane and brine. The aqueous layer was separated and acidified with conc. HCl to a pH value of 2. The precipitate that formed on acidification was filtered and air-dried to give a white solid, 4.1 g (yield 62%). 1H NMR (acetone-d6, 400 MHz) δ 1.26, br.s, 6H, 2×CH3; 3.82, br.s, 2H, CH2N; 4.5, br.s, 2H, CH2N; 4.67, s, 2H, CH2S; 7.56 (d, J=8 Hz, 2H, aromatic); 7.98 (d, J=8 Hz, 2H, aromatic) ppm. 13C NMR (acetone-d6, 400 MHz) δ 11.78, 12.98, 41.53, 47.55, 50.45, 130.26, 130.45, 130.69, 143.74, 167.40, 194.94 ppm.

reactant | 4-Chloromethylbenzoic acid | 0.0234 mol, 4 g, 1.0 equiv. | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | Diethyldithiocarbamic acid | C(C)N(C(S)=S)CC | C5H11NS2
reactant | sodium | 0.0328 mol, 7.92 g, 1.5 equiv. | [Na] | Na
reactant | carbamic acid | C(N)(O)=O | CH3NO2
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-((diethylcarbamothioylthio)methyl)benzoic Acid | yield 62% | C(C)N(C(=S)SCC1(C(=O)O)CC=CC=C1)CC | C13H19NO2S2
